US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-diethylamino-2-hydroxy-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-156)
(2S,4R)-N-(4-Chloro-phenyl)-N-[2-methyl-1-(4-oxiranylmethoxy-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide was further elaborated to (2S,4R)-N-{1-[4-(3-amino-2-hydroxy-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide following ref. (Tetrahedron Lett 2002, 43(46), 8327). The amine was reacted with acetaldehyde, Na(OAc)3BH in dichloromethane at room temperature overnight. Then washed with 1N NaOH, dried over MgSO4, filtered and concentrated down. The crude residue was purified by HPLC to afford the product in 38% yield.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[2-methyl-1-(4-oxiranylmethoxy-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCC1OC1)=O)C | C28H27ClN2O4
reactant | (2S,4R)-N-{1-[4-(3-amino-2-hydroxy-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | NCC(COC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1)O | C28H30ClN3O4
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | Na(OAc)3BH | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-diethylamino-2-hydroxy-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | 38% yield | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCC(CN(CC)CC)O)=O)C | C32H38ClN3O4
